US04766133
2.6 g of 2-[(2-pyridylmethyl)sulphinyl]benzimidazole are dissolved in 30 ml of tetrahydrofuran and treated with 1.0 ml of n-propyl mercaptan. 10 ml of 3N hydrochloric acid are added at an internal temperature of 40°. The mixture is stirred at 40° for 5 minutes and then evaporated in vacuo. The residue is crystallized from ethanol/ether. There is obtained 1-(2-benzimidazolyl)-2-[(propyldithio)methyl]pyridinium chloride of melting point 144°-145°.

reactant | 2-[(2-pyridylmethyl)sulphinyl]benzimidazole | 2.6 g | N1=C(C=CC=C1)CS(=O)C=1NC2=C(N1)C=CC=C2 | C13H11N3OS
reactant | n-propyl mercaptan | 1.0 ml | C(CC)S | C3H8S
reactant | hydrochloric acid | 3N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 1-(2-benzimidazolyl)-2-[(propyldithio)methyl]pyridinium chloride | [Cl-].N1=C(NC2=C1C=CC=C2)[N+]2=C(C=CC=C2)CSSCCC | InChI=1S/C16H18N3S2.ClH/c1-2-11-20-21-12-13-7-5-6-10-19(13)16-17-14-8-3-4-9-15(14)18-16;/h3-10H,2,11-12H2,1H3,(H,17,18);1H/q+1;/p-1
